US03987047
10-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride was prepared by hydrolysis of 10-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester in concentrated hydrochloric acid. Yield: 72% of theory; m.p. >300° C.

reactant | 10-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2=NC=3C=CC=C(C3C(=C2CC1)C)O | C17H20N2O3
reactant | hydrochloric acid | Cl | ClH
product | 10-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride | Yield: 72% | Cl.Cl.OC=1C=2C(=C3C(=NC2C=CC1)CCNCC3)C | InChI=1S/C14H16N2O.2ClH/c1-9-10-5-7-15-8-6-11(10)16-12-3-2-4-13(17)14(9)12;;/h2-4,15,17H,5-8H2,1H3;2*1H
